US07737149B2
A solution of tert-butyl 4-cyclopropylpiperazine-1-carboxylate (0.792 g, 3.50 mmol) in 4M HCl in 1,4-dioxane (4.37 mL, 17.50 mmol) was stirred at room temperature for 3 h under nitrogen. The reaction mixture was filtered and washed with ether to afford crude 1-cyclopropylpiperazine (0.659 g) as a white solid. The crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 3.5M NH3/MeOH and pure fractions were evaporated to dryness to afford 1-cyclopropylpiperazine (0.264 g, 59.7%) as a yellow oil.

reactant | tert-butyl 4-cyclopropylpiperazine-1-carboxylate | 3.50 mmol, 0.792 g | C1(CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C12H22N2O2
reactant | 1,4-dioxane | 17.50 mmol, 4.37 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 4M | Cl | ClH
product | 1-cyclopropylpiperazine | 0.264 g, 59.7% | C1(CC1)N1CCNCC1 | C7H14N2
